
V1 1 0 DC 12
L1 1 2 300e-6

M1 2 3 0 0 LOWSIDE
Cgs1 3 0 2.08e-9
Cgd1 3 2 120e-12
Cds1 2 0 280e-12

R1 3 5 47
V2 5 0 PULSE(15,0,0,15e-9,8e-9,10e-6,20e-6)

D1 2 4 Dmodel

C1 4 0 33e-6
R2 4 0 24

.model LOWSIDE NMOS(Vto=4 KP=4.9 LAMBDA=0.03 IS=67e-12)
.model Dmodel D(IS=1e-12 N=1)

.tran 20e-3 startup
.end



